US05962710
A 50% (by weight) solution of potassium carbonate (24 mL, 36 g, 0.127 mol, 1.23 eq), 8-aminocaprylic acid (16.44 g, 0.103 mol, 1.00 eq), and water (20 mL) were added to a 250 mL round bottom flask equipped with a magnetic stir bar and an addition funnel. The white cloudy mixture was treated with a solution of oligo(3-methylsalicylate) (15.90 g, 0.114 mmol 1.11 eq) and dioxane (90 mL), added over five minutes. The addition funnel was replaced with a condenser, and the reaction mixture was heated to 90 degrees C. for 4 hours (at which time the reaction was determined to have finished, by HPLC). The clear orange reaction mixture was cooled to 40 degrees C. and acidified to pH=1 with 3% (by vol.) aqueous hydrochloric acid. All the dioxane and some of the water were stripped (60 degrees C., 50 mm). The water layer from the resulting two-phase mixture was decanted while still warm. The orange oil was crystallized from 65% ethanol-water to give a tan solid upon cooling to -10 degrees C. The solid was recrystallized from 50 mL of 65% ethanol-water. The off-white solid was washed with hot water (30 mL) to remove most of the remaining salicylic acid. The solid was recovered by filtration and was dried over 6 hours in a 50 degrees C. vacuum oven. The N-(3-methylsalicyloyl)-8-aminocaprylic acid was isolated as a light tan solid (12.32 g, 41%).

reactant | potassium carbonate | 0.127 mol, 24 mL, 36 g, 1.23 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 8-aminocaprylic acid | 0.103 mol, 16.44 g, 1.00 eq | NCCCCCCCC(=O)O | C8H17NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | N-(3-methylsalicyloyl)-8-aminocaprylic acid | CC1=C(C(C(=O)NCCCCCCCC(=O)O)=CC=C1)O | C16H23NO4
